data/mechanism_extracts/EurJOC/10.1002_ejoc.202301246.json
{"doi": "10.1002_ejoc.202301246", "journal": "EurJOC", "is_review": false, "rxn_class_summary": "Electrochemical dehydrogenative regioselective cyclization of 3-aza-1,5-dienes with 1,3-dicarbonyl compounds to construct 4-pyrrolin-2-ones via anodic generation of 1,3-dicarbonyl radicals.", "mechanism_family": ["radical_anodic", "direct_SET", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of the 1,3-dicarbonyl compound (Eox p/2 = 1.49 V vs Ag/AgCl) to a 1,3-dicarbonyl radical; a second anodic SET oxidizes the cyclized C-radical to a cation; concomitant cathodic reduction of protons evolves H2.", "key_intermediates": [{"name": "1,3-dicarbonyl radical (A) from anodic oxidation of 2a", "smiles": "[CH](C(=O)OC)C(=O)OC", "role": "reactive"}, {"name": "open-chain radical adduct (B) from radical addition onto the acryloyl C=C of the 3-aza-1,5-diene", "smiles": null, "role": "transient"}, {"name": "cyclized C-radical (C) after intramolecular radical trapping by the enaminic double bond", "smiles": null, "role": "transient"}, {"name": "cationic intermediate (D) from SET oxidation of C at the anode", "smiles": null, "role": "transient"}, {"name": "4-pyrrolin-2-one product (3a) after deprotonation of D", "smiles": null, "role": "reactive"}], "electron_flow": "The anode oxidizes the 1,3-dicarbonyl compound to a C-centered radical (A), which adds regioselectively to the acryloyl alkene of the 3-aza-1,5-diene to give radical B; intramolecular cyclization onto the enaminic C=C gives radical C, which is further oxidized at the anode to cation D, and deprotonation delivers the pyrrolinone while protons are reduced at the cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Yield of 3a suppressed to <1%, indicating a radical intermediate."}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Yield <1%, consistent with radical pathway."}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C(c1ccccc1)c1ccccc1)", "purpose": "radical_trap", "observation": "Reaction completely suppressed (0% yield)."}, {"name": "p-dinitrobenzene (pDNB)", "smiles": "O=[N+]([O-])c1ccc(cc1)[N+](=O)[O-]", "purpose": "redox_probe", "observation": "SET scavenger; 0% yield, supporting single-electron transfer."}, {"name": "CuCl2", "smiles": "[Cl-].[Cl-].[Cu+2]", "purpose": "redox_probe", "observation": "<1% yield, single-electron scavenging suppresses reaction."}, {"name": "CCl4", "smiles": "ClC(Cl)(Cl)Cl", "purpose": "redox_probe", "observation": "0% yield; single-electron quencher inhibits reaction."}, {"name": "current on/off experiment", "smiles": null, "purpose": "other", "observation": "Reaction halts during off cycles, excluding a radical chain mechanism."}, {"name": "H2 headspace detection", "smiles": "[H][H]", "purpose": "intermediate_trap", "observation": "H2 concentration increases over time, confirming cathodic proton reduction paired with anodic oxidation."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "on/off_light_or_current", "cyclic_voltammetry", "other"], "evidence_strength": "medium", "notes": "Regioselectivity favors radical addition onto the acryloyl alkene rather than the aryl-substituted enaminic alkene, with cyclization closing through the enaminic double bond rather than via aryl radical attack. On/off current experiments rule out a radical chain propagation; instead a stepwise anodic SET / radical addition / cyclization / second anodic SET / deprotonation sequence is invoked, paired with cathodic H2 evolution."}
